US08455528B2
Propionic acid (1.5 mL, 20 mmol) was added over a period of 30 min to a stirred suspension of Cs2CO3 (3.30 g, 10 mmol) in MeOH (20 mL). The reaction mixture was concentrated and the residue was suspended in DMF (25 mL), to which was added 2-bromo-1-[4-(methylsulfonyl)phenyl]ethanone (5.00 g, 18 mmol). The mixture was stirred at 25° C. for 16 h, and then partitioned between H2O (100 mL) and EtOAc/hexane (20/100 mL). The organic layer was separated, washed with water (3×200 mL), dried over anhydrous Na2SO4, filtered and concentrated to give 2-[4-(methylsulfonyl)phenyl]-2-oxoethyl propionate. LCMS: [M+1]+=271.

reactant | Propionic acid | 20 mmol, 1.5 mL | C(CC)(=O)O | C3H6O2
reactant | Cs2CO3 | 10 mmol, 3.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-1-[4-(methylsulfonyl)phenyl]ethanone | 18 mmol, 5.00 g | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C9H9BrO3S
solvent | MeOH | 20 mL | CO | CH4O
product | 2-[4-(methylsulfonyl)phenyl]-2-oxoethyl propionate | C(CC)(=O)OCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C12H14O5S
